US07816391B2
Intermediate#52: 4-Hydrazinomethyl-benzoic acid methyl ester hydrochloride
A solution of methyl 4-[[(2-methylpropan-2-yl)oxycarbonyl-[(2-methylpropan-2-yl)oxycarbonylamino]amino]methyl]benzoate (Intermediate#54) (3.3 g, 8.67 mmol) in 4M HCl in Dioxane (100 mL) was stirred overnight at ambient temperature. The solvent was removed under reduced pressure and the resulting solid was dissolved in hot MeOH. The hot suspension was filtered then evaporated in vacuo to give a solid. This solid was triturated with ether, filtered then dried under high vac to yield the title compound as a yellow solid (1.5 g, 80%).

reactant | methyl 4-[[(2-methylpropan-2-yl)oxycarbonyl-[(2-methylpropan-2-yl)oxycarbonylamino]amino]methyl]benzoate | 8.67 mmol, 3.3 g | CC(C)(C)OC(=O)N(NC(=O)OC(C)(C)C)CC1=CC=C(C(=O)OC)C=C1 | C19H28N2O6
reactant | HCl | 4M | Cl | ClH
solvent | Dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | 4-Hydrazinomethyl-benzoic acid methyl ester hydrochloride | 1.5 g, 80% | Cl.COC(C1=CC=C(C=C1)CNN)=O | InChI=1S/C9H12N2O2.ClH/c1-13-9(12)8-4-2-7(3-5-8)6-11-10;/h2-5,11H,6,10H2,1H3;1H
